US06632810B2
Synthesis of N,N′-bis[(4,5,6-trimethoxybenzothiophen-2-yl)methyl]homopiperazine:
2-Hydroxymethyl-4,5,6-trimethoxbenzothiophene (1.15 g) was treated in the same manner as in Preparation Example 4, and 2-chloromethyl-4,5,6-trimethoxy-benzothiophene thus obtained was immediately reacted with homopiperazine (226 mg) in the same manner as in Example 1 without isolating it to obtain the title compound as a free base.

reactant | 2-chloromethyl-4,5,6-trimethoxy-benzothiophene | ClCC=1SC2=C(C1)C(=C(C(=C2)OC)OC)OC | C12H13ClO3S
reactant | homopiperazine | 226 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(4,5,6-trimethoxybenzothiophen-2-yl)methyl]homopiperazine | COC1=C(C(=CC2=C1C=C(S2)CN2CCN(CCC2)CC=2SC1=C(C2)C(=C(C(=C1)OC)OC)OC)OC)OC | C29H36N2O6S2
